US08084614B2
NaH (373 mg, 9.3 mmol, 60% in mineral oil) was added to 1,4-butanediol (3.5 g, 38.9 mmol) in dry DMF (50 mL). The mixture was stirred at room temperature for 15 minutes. 5-Bromo-4-chloro-2-fluoro-N-(2-methoxy-6-methyl-phenyl)-benzamide (3.0 g, 7.8 mmol) in DMF (25 mL) was added slowly. The mixture was then heated at 50° C. for 2 hrs, cooled to room temperature and partitioned between DCM and water. The organic layer was separated, washed with 1H HCl, sat NaHCO3 and brine, then dried over Na2SO4. The filtrate was concentrated and the residue purified using column chromatography with a gradient of 50% ethyl acetate in hexanes to 100% ethyl acetate to yield 5-bromo-4-chloro-2-(4-hydroxy-butoxy)-N-(2-methoxy-6-methyl-phenyl)-N-methyl-benzamide (2.3 g). MS: 457.9 (M+H)+, tR=2.38 min (method 1).

reactant | NaH | 9.3 mmol, 373 mg | [H-].[Na+]
reactant | 1,4-butanediol | 38.9 mmol, 3.5 g | C(CCCO)O | C4H10O2
reactant | 5-Bromo-4-chloro-2-fluoro-N-(2-methoxy-6-methyl-phenyl)-benzamide | 7.8 mmol, 3.0 g | BrC=1C(=CC(=C(C(=O)NC2=C(C=CC=C2C)OC)C1)F)Cl | C15H12BrClFNO2
reactant | DMF | 50 mL | CN(C)C=O | C3H7NO
reactant | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 5-bromo-4-chloro-2-(4-hydroxy-butoxy)-N-(2-methoxy-6-methyl-phenyl)-N-methyl-benzamide | 2.3 g | BrC=1C(=CC(=C(C(=O)N(C)C2=C(C=CC=C2C)OC)C1)OCCCCO)Cl | C20H23BrClNO4
